US05773448
3,3-Dimethylindol-1,3-dihydro-2H-indol-2-one (6.3 g, 40 mmol) was dissolved in dry dimethylformamide under nitrogen at room temperature. Sodium hydride (60% dispersion in mineral oil, 1.8 g, 45 mmol) was added and the mixture was stirred until gas evolution ceased. 2-(2-Chloroethoxy)tetrahydro-2H-pyran (7.5 g, 42 mmol) and sodium iodide (0.6 g, 4 mmol) was added and the mixture was warmed to 75° C. for 15 hours. Water was added and the mixture was concentrated under reduced pressure. The residue was taken up in ethyl acetate, washed (×3) with water, dried (MgSO4), filtered and concentrated under reduced pressure. The resulting oil was taken up in methanol, para toluenesulphonic acid (0.75 g, 4 mmol) was added and the mixture was stirred at room temperature for 12 hours. The mixture was concentrated under reduced pressure, taken up in ethyl acetate, washed (×3) with aqueous sodium hydrogen carbonate solution dried (MgSO4), filtered and concentrated under reduced pressure. The resulting oil was purified by chromatography on silica gel, eluent hexane/ethyl acetate, to give 3,3-dimethyl-1-(2-hydroxy-1-ethyl)indol-2(3H)-one which was characterised by 1H nmr and MS.

reactant | 3,3-Dimethylindol 1,3-dihydro-2H-indol-2-one | 40 mmol, 6.3 g | CC1(C=NC2=CC=CC=C12)C.N1C(CC2=CC=CC=C12)=O
reactant | Sodium hydride | 45 mmol, 1.8 g | [H-].[Na+]
reactant | 2-(2-Chloroethoxy)tetrahydro-2H-pyran | 42 mmol, 7.5 g | ClCCOC1OCCCC1 | C7H13ClO2
reactant | sodium iodide | 4 mmol, 0.6 g | [I-].[Na+]
reactant | para toluenesulphonic acid | 4 mmol, 0.75 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3,3-dimethyl-1-(2-hydroxy-1-ethyl)indol-2(3H)-one | CC1(C(N(C2=CC=CC=C12)CCO)=O)C | C12H15NO2
